US09353081B2
[B] (rac)-6-(8-Hydroxy-5,6,7,8-tetrahydro-isoquinolin-4-yl)-1-methyl-3,4-dihydroquinolin-2(1H)-one
In analogy to the procedure described for the preparation of intermediate A-2 [E], Suzuki reaction of (rac)-4-bromo-5,6,7,8-tetrahydro-isoquinolin-8-ol with 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-1) gave the title compound as light red powder. MS: 309.5 (M+H+).

reactant | (rac)-4-bromo-5,6,7,8-tetrahydro-isoquinolin-8-ol | BrC1=CN=CC=2C(CCCC12)O | C9H10BrNO
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
product | (rac)-6-(8-Hydroxy-5,6,7,8-tetrahydro-isoquinolin-4-yl)-1-methyl-3,4-dihydroquinolin-2(1H)-one | OC1CCCC=2C(=CN=CC12)C=1C=C2CCC(N(C2=CC1)C)=O | C19H20N2O2
